US07425642B2
Methyl 2-[(4-iodobenzyl)oxy]-2-methylpropionate
To a suspension of sodium hydride (60% in parafin liquid) (2.22 g, 55.5 mmol) in DMF (25 ml) was added dropwise a solution of methyl 2-hydroxy-isobutyrate (6.44 g, 54.5 mmol) in DMF (12 ml) over a period of 20 minutes (the inner temperature: 20° C.). The reaction solution was stirred at 22-23° C. for 30 minutes (the bath temperature: 23° C.). To this reaction solution was added dropwise a solution of 4-iodobenzyl bromide (15.4 g, 51.9 mmol) in DMF (35 ml) over a period of 20 minutes (the inner temperature: 22-26° C.). This reaction solution was stirred at 22-25° C. for 2.5 hours. To the reaction solution were added toluene (80 ml) and water (50 ml), and the mixture was stirred for 5 minutes. The mixture was transferred into a separatory funnel, and separated. The organic layer was washed with water, and concentrated to give a mixture of methyl ester compounds. A part of the mixture was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give the title compound.

reactant | sodium hydride | 55.5 mmol, 2.22 g | [H-].[Na+]
reactant | methyl 2-hydroxy-isobutyrate | 54.5 mmol, 6.44 g | OC(C(=O)OC)(C)C | C5H10O3
reactant | 4-iodobenzyl bromide | 51.9 mmol, 15.4 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | Methyl 2-[(4-iodobenzyl)oxy]-2-methylpropionate | IC1=CC=C(COC(C(=O)OC)(C)C)C=C1 | C12H15IO3
